US08309718B2
Step 2. 4-[(4-{1-[2-cyano-1-(tetrahydro-2H-pyran-4-yl)ethyl]-1H-pyrazol-4-yl}pyrimidin-2-yl)amino]-N-(tetrahydro-2H-pyran-4-yl)benzamide
To a mixture of 4-[(4-{1-[2-cyano-1-(tetrahydro-2H-pyran-4-yl)ethyl]-1H-pyrazol-4-yl}pyrimidin-2-yl)amino]benzoic acid (20 mg, 0.00005 mol), tetrahydro-2H-pyran-4-amine (4.8 mg, 0.000048 mol) and benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (25 mg, 0.000057 mol) in N,N-dimethylformamide (0.3 mL, 0.004 mol) was added N,N-diisopropylethylamine (20 μL, 0.00011 mol). The reaction was stirred at room temperature for 1 h, quenched with water, purified on HPLC to obtain the desired product as a racemic mixture (free base). LCMS (M+H) 502.4.

reactant | 4-[(4-{1-[2-cyano-1-(tetrahydro-2H-pyran-4-yl)ethyl]-1H-pyrazol-4-yl}pyrimidin-2-yl)amino]benzoic acid | 0.00005 mol, 20 mg | C(#N)CC(C1CCOCC1)N1N=CC(=C1)C1=NC(=NC=C1)NC1=CC=C(C(=O)O)C=C1 | C22H22N6O3
reactant | tetrahydro-2H-pyran-4-amine | 0.000048 mol, 4.8 mg | O1CCC(CC1)N | C5H11NO
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.000057 mol, 25 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | N,N-dimethylformamide | 0.004 mol, 0.3 mL | CN(C=O)C | C3H7NO
reactant | N,N-diisopropylethylamine | 0.00011 mol, 20 μL | C(C)(C)N(C(C)C)CC | C8H19N
product | 4-[(4-{1-[2-cyano-1-(tetrahydro-2H-pyran-4-yl)ethyl]-1H-pyrazol-4-yl}pyrimidin-2-yl)amino]-N-(tetrahydro-2H-pyran-4-yl)benzamide | C(#N)CC(C1CCOCC1)N1N=CC(=C1)C1=NC(=NC=C1)NC1=CC=C(C(=O)NC2CCOCC2)C=C1 | C27H31N7O3
